US04489075
A solution of 3-chloropropanesulphonyl chloride (20.0 g) in dichloromethane (200 cm3) was added dropwise over 1.5 hours to a stirred solution of 4-(2-aminoethyl)pyridine (13.8 g) in dichloromethane (200 cm3) and triethylamine (15 cm3) at 0° C. The ice bath was removed and the mixture was stirred for 16 hours. Saturated aqueous sodium carbonate (100 cm3) was then added and the organic phase was dried (MgSO4) and evaporated in vacuo to yield an oil which was suspended in abs. ethanol (500 cm3) and heated under reflux with potassium hydroxide (6.3 g) for 0.5 hours. The mixture was cooled and filtered and the filtrate was evaporated in vacuo to yield an oil which was taken into warm ethyl acetate (100 cm3), charcoal was added and the mixture was filtered. The filtrate was passed through a "Florisil" column (Trade Mark, Hopkin and Williams) and eluted further with ethyl acetate to obtain a colourless oil. Crystallisation from ethyl acetate gave 2-[2-(4-pyridyl)ethyl]isothiazolidine-1,1-dioxide as colourless needles, m.p. 70° C. (15.0 g).

reactant | 3-chloropropanesulphonyl chloride | 20.0 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 4-(2-aminoethyl)pyridine | 13.8 g | NCCC1=CC=NC=C1 | C7H10N2
reactant | potassium hydroxide | 6.3 g | [OH-].[K+]
reactant | charcoal | C | CH4
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 15 cm3 | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 500 cm3 | C(C)O | C2H6O
product | 2-[2-(4-pyridyl)ethyl]isothiazolidine-1,1-dioxide | N1=CC=C(C=C1)CCN1S(CCC1)(=O)=O | C10H14N2O2S
